US05348978
a) (S)-2-Acetoxy-4-phenoxybutanoic acid ethyl ester
Diethyl azodicarboxylate (1.37 g, 7.9 mmol) in tetrahydrofuran (3 ml) was added to a stirred mixture of (S)-2-acetoxy-4-hydroxybutanoic acid ethyl ester (1.0 g, 5.3 mmol), phenol (0.74 g, 7.9 mmol) and triphenylphosphine (2.07 g, 7.9 mmol) in tetrahydrofuran (16 ml). After 4 days the solvent was evaporated and the residue purified by chromatography on silica with ethyl acetate/petroleum ether (60°-80°) mixtures as eluant, to give the sub-title compound (1.4 g).

reactant | Diethyl azodicarboxylate | 7.9 mmol, 1.37 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (S)-2-acetoxy-4-hydroxybutanoic acid ethyl ester | 5.3 mmol, 1.0 g | C(C)OC([C@H](CCO)OC(C)=O)=O | C8H14O5
reactant | phenol | 7.9 mmol, 0.74 g | C1(=CC=CC=C1)O | C6H6O
reactant | triphenylphosphine | 7.9 mmol, 2.07 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
product | (S)-2-Acetoxy-4-phenoxybutanoic acid ethyl ester | 1.4 g | C(C)OC([C@H](CCOC1=CC=CC=C1)OC(C)=O)=O | C14H18O5
